2124-12-12 07:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2124-12-12**] 03:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-12**] 04:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-12-12**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-12**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 109 (108 - 125) bpm
   BP: 95/62(67) {90/50(61) - 110/62(74)} mmHg
   RR: 31 (24 - 37) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58.3 kg (admission): 58.3 kg
   Height: 67 Inch
             Total In:
             3,835 mL
   PO:
             TF:
   IVF:
   835 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,300 mL
   Urine:
   1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,535 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l, Diminished:
   bases)
   Abdominal: Soft, Bowel sounds present, Distended, Tender:
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Rash: erythema left calf
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   12.6 g/dL
   229 K/uL
   183 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.7 mEq/L
   8 mg/dL
   109 mEq/L
   139 mEq/L
   37.2 %
   7.5 K/uL
        [image002.jpg]
                            [**2124-12-12**]  05:41 AM
   WBC
   7.5
   Hct
   37.2
   Plt
   229
   Cr
   0.7
   Glucose
   183
   Other labs: PT / PTT / INR:13.8/36.3/1.2, CK / CKMB / Troponin-T:292//,
   ALT / AST:15/21, Alk Phos / T Bili:104/0.2, Differential-Neuts:96.6 %,
   Lymph:2.9 %, Mono:0.3 %, Eos:0.1 %, Albumin:3.6 g/dL, LDH:234 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   85 yo female with hx of CAD (with NSTEMI post ERCP), COPD on home O2,
   apspiration PNA who was recently discharged home and is now re-admitted
   with increasing hypoxemia in the setting of hyptertension at home now
   with new NSTEMI
   > Hypoxemia: likely CHF/CAD in setting of severe HTN (syst dysfunction
   elevated BNP); in addition may have PNA (dry cough, fever) and
   component of chronic COPD. Finally she has what looks like an increase
   in left sided effusion (although on the abdominal cuts of a previous CT
   there was no effusion). Will obtain a Chest CT today, will use theTTE
   to help guide whether it should be PE protocol, if there are signs of
   RV impairment then will pursue PE-CT
   -Continue diuresis (TBB goal even to net neg 500 cc)
   - Brief course of PO prednisone 40 mg PO x 5 days Day 1 = [**12-11**].
   - CT scan
   -Repeat ECHO  [**12-11**] given concern for evolving infarct
   -bronchodilators
   -Levoflox/Flagyl continued post ERCP x 7 day course, will await the
   results of CT scan to decide on whether we need to cont course for
   aspiration.
   > NSTEMI: likely demand ischemia, but she clearly has CAD with a new
   troponin rise on this admission concerning for a second  NSTEMI again
   in the setting of demand. Appreciate cardiology input. She may go to
   the cath lab for re-vascularization.
   -Continue ASA, plavix, heparin, ACE-I,  statin, BB for HR 50-60.
   Notably no previous coronary cath.
   - repeat TTE
   > Fever: PNA?, LLE cellulitis?, viral infection?, U/A is normal,
   LFT/Lip normal. She has remained Afebrile since her admission.
   -Continue levaquin/flagyl as above
   -Vanco for ? cellulitis
   -Follow up clx data.
    .> Lower ext swelling: appears to be consistent with cellulitis.There
   is no evidence of DVT on LENI.
   - cont vanco for cellulitis
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2124-12-12**] 12:50 AM
   20 Gauge - [**2124-12-12**] 12:50 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2124-12-12 07:34:00 Physician Resident Progress Note
Chief Complaint: shortness of breath
   24 Hour Events:
   Weaned to 40% face mask
   Levo - zosyn coverage
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-12**] 04:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-12-12**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-12**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 109 (108 - 125) bpm
   BP: 95/62(67) {90/50(61) - 110/62(74)} mmHg
   RR: 31 (24 - 37) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58.3 kg (admission): 58.3 kg
   Height: 67 Inch
             Total In:
             3,848 mL
   PO:
             TF:
   IVF:
   848 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,700 mL
   Urine:
   1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,148 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   Labs / Radiology
   229 K/uL
   12.6 g/dL
   183 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.7 mEq/L
   8 mg/dL
   109 mEq/L
   139 mEq/L
   37.2 %
   7.5 K/uL
        [image002.jpg]
                            [**2124-12-12**]  05:41 AM
   WBC
   7.5
   Hct
   37.2
   Plt
   229
   Cr
   0.7
   Glucose
   183
   Other labs: PT / PTT / INR:13.8/36.3/1.2, CK / CKMB / Troponin-T:292//,
   ALT / AST:15/21, Alk Phos / T Bili:104/0.2, Differential-Neuts:96.6 %,
   Lymph:2.9 %, Mono:0.3 %, Eos:0.1 %, Albumin:3.6 g/dL, LDH:234 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   52yoF hx asthma, sinusitis, p/w shortness of breath for 3 days,
   admitted to MICU for asthma exacerbation and pna.
   .
   # dyspnea - multifactorial --> asthma exacerbation and upper lobe pna,
   vs. other underlying pulmonary process. Transferred to MICU from ED on
   6L of o2, no oxygen requirement at home.  +immunocompromised over past
   month [**2-26**] steroid administration, raising suspicion for LDH.  Bil upper
   lobe pna is atypical findings, ddx includes aspergillus, silicosis, tb,
   eosinophillic pna (difficult to interpret since on steroids and has
   received here), connective tissue dz.  No risk factors for TB (no
   exposures, no travel).  No hx of ciliary disease, but constellation of
   sinus and pulmonary findings may suggest cystic fibrosis picture.
   Unsure if pt has been taking steroids as outpt; had eosinophilia 5 days
   prior to admit.  PMH also notes intermittent "sob," which may be
   manifestation of ABPA.
   - iv solumedrol, taper pending
   - albuterol and ipratrop nebs
   - levofloxacin, zosyn - for pseudomonal and atypical coverage given bil
   ct findings and recent ciprofloxacin administration
   - AFB smears, sputum cxs
   - legionella urinary ag
   - add-on LDH, PCP smear
   [**Name Initial (PRE) **] [**Name9 (PRE) 2710**], galactomannan
   - may need bronch
   - outpt PFTs
   # pansinusitis - noted to ahve bil frontal, bil maxillaries, total
   ethmoid, and sphenoid inflammation and opacifications seen on recent ct
   scan, followed by ENT - plan for revision endoscopic sinus surgery.
   Swab in [**2123**] grew pseudomonas, no MRSA on swabs.    Currently, it does
   not appear that her sinusitis issues are her underlying issue and since
   she has completed a course of abx as outpt for this issue, opt not to
   treat organisms from this source.  However, query whether pseudomonas
   hx and cipro in recent weeks predispose pt to pseudomonas pna
   currently.
   # tachycardia - baseline HR in 90s.  No PE, no ethanol use or abuse, no
   psych meds to suggest NMS or serotonin syndrome.   [**Month (only) 8**] be element of
   hypovolemia and beta agonists.
   - IVF boluses
   # fEN: regular diet, NPO after midnight, keep mg>2, k>4, iss
   # access: 2pIVs
   # ppx: hep sq, ppi given steroids
   # code:  full
   # dispo:  icu until O2 status stabilizes
   ICU Care
   Nutrition: npo for possible bronch
   Glycemic Control:  iss
   Lines:
   18 Gauge - [**2124-12-12**] 12:50 AM
   20 Gauge - [**2124-12-12**] 12:50 AM
   Prophylaxis:
   DVT:  hep sq
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2124-12-13 07:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2124-12-12**] 03:00 PM
   BAL and biopsy samples sent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-12**] 04:30 AM
   Piperacillin - [**2124-12-13**] 12:07 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-12-13**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-13**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 101 (100 - 126) bpm
   BP: 99/64(44) {82/54(44) - 117/79(84)} mmHg
   RR: 25 (16 - 36) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58.3 kg (admission): 58.3 kg
   Height: 67 Inch
             Total In:
                                                                  4,518 mL
                                                                    373 mL
   PO:
                                                                    200 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,318 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  3,855 mL
                                                                    330 mL
   Urine:
                                                                  2,755 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    663 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes :decreased
   from yesterday)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   12.6 g/dL
   261 K/uL
   120 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.7 mEq/L
   19 mg/dL
   109 mEq/L
   141 mEq/L
   37.5 %
   17.1 K/uL
        [image002.jpg]
                            [**2124-12-12**]  05:41 AM
                            [**2124-12-13**]  05:08 AM
   WBC
   7.5
   17.1
   Hct
   37.2
   37.5
   Plt
   229
   261
   Cr
   0.7
   0.6
   Glucose
   183
   120
   Other labs: PT / PTT / INR:13.8/37.4/1.2, CK / CKMB / Troponin-T:292//,
   ALT / AST:15/21, Alk Phos / T Bili:104/0.2, Differential-Neuts:94.0 %,
   Lymph:3.7 %, Mono:1.5 %, Eos:0.4 %, Albumin:3.6 g/dL, LDH:234 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   ANCA pending
   CXR [**12-13**]: large lung vols no obvious infiltrate.
   Assessment and Plan
   52 yo female with a hx of
asthma
 and pan-sinusitis both of unclear
   etiology with hx of recent course of Abx and prednisone (although
   unclear if taking) admitted with bilateral upper lobe findings on CT
   scan abd prominent blood and BAL eosinophilia consistent with either
   Churg-[**Doctor Last Name 614**] or CEP.
   Hypoxemic resp failure: unclear pulm hx with essentially normal PFTs
   with pan-sinusitis and recent blood  eosinophilia (22%) with bilateral
   upper lobe infiltrates and 40% Eos in the BAL fluid. The leading
   diagsnosis given the invovelement of the sinus and the hx of asthma at
   this point would be Churg [**Doctor Last Name 614**] disease (ANCA testing pending) with
   alternate possibilities including chronic eosinophilic PNA and less
   likely based on the absence of bronchiectasis wold be ABPA.  Notably
   she did have a sinus bx in [**2123**] which revealed prominent eosinophilia.
   For now the treatment whether CEP or Churg [**Doctor Last Name 614**] is the same and
   includes high dose steroids. We will cover for infection pending final
   clxs from the BAL. She will need a long slow taper of steroids
   - F/u pathology and clx data
   - Cont broad coverage including Pip-tazo and vanco, pending neg clx
   data
   - F/u GM and 1,3 glucan
   - F/uk serum precip for Aspergillus, Check IgE,  ANCA(P and C)
   - Solumedrol 125 mg IV q 8h for an additional day then convert to
   Prednisone 1 mg/kg/day
   - PCP prophylaxis when off Abx.
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2124-12-12**] 12:50 AM
   20 Gauge - [**2124-12-12**] 12:50 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2124-12-13 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Bronch: relatively unremarkable apperance; BAL and biopsies pending.
   - BAL cell count 40% eos, 35%monos, 16% polys.
   - PCP, [**Name10 (NameIs) 688**], rapid virals pending.
   - BNP 481, ESR normal, ANCA pending.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-12**] 04:30 AM
   Piperacillin - [**2124-12-13**] 07:32 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-12-13**] 07:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-13**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 106 (100 - 126) bpm
   BP: 102/59(70) {82/54(44) - 117/79(84)} mmHg
   RR: 29 (16 - 36) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58.3 kg (admission): 58.3 kg
   Height: 67 Inch
             Total In:
                                                                  4,518 mL
                                                                    480 mL
   PO:
                                                                    200 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,318 mL
                                                                    280 mL
   Blood products:
   Total out:
                                                                  3,855 mL
                                                                    390 mL
   Urine:
                                                                  2,755 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    663 mL
                                                                     90 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   261 K/uL
   12.6 g/dL
   120 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.7 mEq/L
   19 mg/dL
   109 mEq/L
   141 mEq/L
   37.5 %
   17.1 K/uL
        [image002.jpg]
                            [**2124-12-12**]  05:41 AM
                            [**2124-12-13**]  05:08 AM
   WBC
   7.5
   17.1
   Hct
   37.2
   37.5
   Plt
   229
   261
   Cr
   0.7
   0.6
   Glucose
   183
   120
   Other labs: PT / PTT / INR:13.8/37.4/1.2, CK / CKMB / Troponin-T:292//,
   ALT / AST:15/21, Alk Phos / T Bili:104/0.2, Differential-Neuts:94.0 %,
   Lymph:3.7 %, Mono:1.5 %, Eos:0.4 %, Albumin:3.6 g/dL, LDH:234 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   52yoF hx asthma, sinusitis, p/w shortness of breath for 3 days,
   admitted to MICU for asthma exacerbation and pna.
   # dyspnea
 see H/P: upper lobe pna with bil pulmonary infiltrates, new
   since [**2121**].  Presumed immunocompromised over past month [**2-26**] steroid
   administration.  Of note, sinus biopsy taken 1yr prior showed
   eosinophils.  No risk factors for TB (no exposures, no travel).  No hx
   of ciliary disease, but constellation of sinus and pulmonary findings
   may suggest cystic fibrosis picture, although less likely given nl CT
   05.  Aspergillus, silicosis, sarcoid, eosinophillic pna, and ctdz
   (churg- [**Doctor Last Name **] on ddx).
   - iv solumedrol for [**12-12**]
   - albuterol/ipratrop nebs
   - anca serologies
   - levofloxacin, zosyn
 pseudomonal/atypical coverage given bil ct
   findings and recent cipro administration
   - [**Month/Year (2) 688**] smears, sputum cxs, PCP smear
   [**Name Initial (PRE) **] [**Name9 (PRE) 2710**], galactomannan pending
   - bronch today
   - outpt PFTs
   # pansinusitis
 all sinuses with significant dz, past FQ tx, followed
   by ENT, pending endoscopic revision.
   # tachycardia - baseline HR in 90s.  No PE, no ethanol use or abuse, no
   psych meds to suggest NMS or serotonin syndrome.   [**Month (only) 8**] be element of
   hypovolemia and beta agonists.  Slowly improving with IVF
   resuscitation.
   - IVF boluses
   # fEN: NPO until bronch, then regular diet, keep mg>2, k>4, iss
   # access: 2pIVs
   # ppx: hep sq, ppi given steroids
   # code:  full
   # dispo:  icu until O2 status stabilizes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-12-12**] 12:50 AM
   20 Gauge - [**2124-12-12**] 12:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-14 07:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-12**] 04:30 AM
   Piperacillin - [**2124-12-14**] 12:19 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-12-14**] 12:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-14**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 106 (85 - 118) bpm
   BP: 105/65(75) {90/53(63) - 117/77(85)} mmHg
   RR: 21 (16 - 32) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58.3 kg (admission): 58.3 kg
   Height: 67 Inch
             Total In:
                                                                  1,076 mL
                                                                    100 mL
   PO:
                                                                    680 mL
             TF:
   IVF:
                                                                    396 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,085 mL
                                                                    370 mL
   Urine:
                                                                  1,085 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -9 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   13.2 g/dL
   253 K/uL
   142 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   17 mg/dL
   106 mEq/L
   142 mEq/L
   37.0 %
   14.2 K/uL
        [image002.jpg]
                            [**2124-12-12**]  05:41 AM
                            [**2124-12-13**]  05:08 AM
                            [**2124-12-14**]  04:40 AM
   WBC
   7.5
   17.1
   14.2
   Hct
   37.2
   37.5
   37.0
   Plt
   [**Telephone/Fax (3) 2756**]
   Cr
   0.7
   0.6
   0.6
   Glucose
   183
   120
   142
   Other labs: PT / PTT / INR:13.8/37.4/1.2, CK / CKMB / Troponin-T:292//,
   ALT / AST:15/21, Alk Phos / T Bili:104/0.2, Differential-Neuts:94.0 %,
   Lymph:3.7 %, Mono:1.5 %, Eos:0.4 %, Albumin:3.6 g/dL, LDH:234 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   CXR: relatively clear lung fields, appears to be scapular shadow, no
   signif change from [**12-13**]
   Assessment and Plan
   52 yo female with a hx of
asthma
 and pan-sinusitis both of unclear
   etiology with hx of recent course of Abx and prednisone (although
   unclear if taking) admitted with bilateral upper lobe findings on CT
   scan abd prominent blood and BAL eosinophilia consistent with either
   Churg-[**Doctor Last Name 614**] or CEP.
   >Hypoxemic resp failure: unclear pulm hx with essentially normal PFTs
   with pan-sinusitis and recent blood  eosinophilia (22%) with bilateral
   upper lobe infiltrates and 40% Eos in the BAL fluid. The leading
   diagsnosis given the invovelement of the sinus and the hx of asthma at
   this point would be Churg [**Doctor Last Name 614**] disease (ANCA testing pending) with
   alternate possibilities including chronic eosinophilic PNA and less
   likely based on the absence of bronchiectasis wold be ABPA.  Notably
   she did have a sinus bx in [**2123**] which revealed prominent eosinophilia.
   This appears most consistent with an ANCA neg Churg [**Doctor Last Name 614**]. .Neg
   infectious workup on BAL, neg AFB, neg PCP and neg 1,3 glucan. She will
   need a long slow taper of steroids
   - F/u pathology
   - TTE given concern for myocardial involvment
   - D/c abx
   - F/u IgE
   - Solumedrol 125 mg IV q 8h for an additional day then convert to
   Prednisone 1 mg/kg/day on [**12-15**]
   - PCP prophylaxis starting today as well as Cal and Vit D
   > Tachycardia:  appears volume repleted, will challenge with 1L to see
   if any change in volume status alternatively may be related to Churg
   [**Doctor Last Name 614**] versus hypoxemic drive.
   - fluid challenge
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2124-12-12**] 12:50 AM
   20 Gauge - [**2124-12-12**] 12:50 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2124-12-14 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Oxygen weaned to 4LNC
   PCP negative
   Sputum AFB negative x 1, precautions d/c'd due to alternative diagnosis
   and no clinical suspician for TB
   ANCA negative
   BAL culture preliminarily negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-12**] 04:30 AM
   Piperacillin - [**2124-12-14**] 12:19 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-12-14**] 12:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-14**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 106 (85 - 118) bpm
   BP: 105/65(75) {90/53(63) - 117/77(85)} mmHg
   RR: 21 (16 - 32) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58.3 kg (admission): 58.3 kg
   Height: 67 Inch
             Total In:
                                                                  1,076 mL
                                                                    100 mL
   PO:
                                                                    680 mL
             TF:
   IVF:
                                                                    396 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,085 mL
                                                                    370 mL
   Urine:
                                                                  1,085 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -9 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Nad, a/ox3, cn2-12 grossly intact, exp and inspiratory wheezes in all
   fields, no crackles, improved from prior, abd soft, no LE edema,
   continued R-sided weakness, unchanged
   Labs / Radiology
   253 K/uL
   13.2 g/dL
   142 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   17 mg/dL
   106 mEq/L
   142 mEq/L
   37.0 %
   14.2 K/uL
        [image002.jpg]
                            [**2124-12-12**]  05:41 AM
                            [**2124-12-13**]  05:08 AM
                            [**2124-12-14**]  04:40 AM
   WBC
   7.5
   17.1
   14.2
   Hct
   37.2
   37.5
   37.0
   Plt
   [**Telephone/Fax (3) 2756**]
   Cr
   0.7
   0.6
   0.6
   Glucose
   183
   120
   142
   Other labs: PT / PTT / INR:13.8/37.4/1.2, CK / CKMB / Troponin-T:292//,
   ALT / AST:15/21, Alk Phos / T Bili:104/0.2, Differential-Neuts:94.0 %,
   Lymph:3.7 %, Mono:1.5 %, Eos:0.4 %, Albumin:3.6 g/dL, LDH:234 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Pcp (-), afb (-), respiratory panel (-)
   Sputum (-)
   Beta glucan and galactomannan (-)
   Assessment and Plan
   52yoF hx asthma, sinusitis, p/w shortness of breath for 3 days,
   admitted to MICU for asthma exacerbation and pna.
   # dyspnea
 see H/P: upper lobe pna with bil pulmonary infiltrates, new
   since [**2121**].  +immunocompromised [**2-26**] steroid administration.  No risk
   factors for TB (no exposures, no travel).  Aspergillus, silicosis,
   sarcoid, eosinophillic pna, and ctdz (churg- [**Doctor Last Name **] on ddx), all on
   ddx; BAL showing significant eospinophilia, concern for churg-[**Doctor Last Name **],
   which may be precipitated by singulair or has been chronic issue.  ANCA
   (-), but ~50% churg-[**Doctor Last Name **] without positive serologies.  Concern for
   cardiac involvement if indeed churg-[**Doctor Last Name **].
   - iv solumedrol through [**12-15**], then to address po prednisone dose and
   duration
   - albuterol/ipratrop nebs
   - DC antibiotics as no culture data
   - f/u biopsy
   - outpt PFTs
   - TTE to assess cardiac function
   # pansinusitis
 all sinuses with significant dz, past FQ tx, followed
   by ENT, pending endoscopic revision.
   # tachycardia - baseline HR in 90s.  No PE, no ethanol use or abuse, no
   psych meds to suggest NMS or serotonin syndrome.   [**Month (only) 8**] be element of
   hypovolemia and beta agonists.  Improved since admit
   - ivf bolus today
   # fEN: regular diet, keep mg>2, k>4, iss
   # access: 2pIVs
   # ppx: hep sq, ppi given steroids
   # code:  full
   # dispo:  icu until O2 status stabilizes
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2124-12-12**] 12:50 AM
   20 Gauge - [**2124-12-12**] 12:50 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: to floor after echo